US06369078B1
trans-N-Boc-2-methyl-6-n-undecylpiperidine
To a stirred solution of 1.34 g (3.81 mmol) of 1-(tert-Butoxycarbonyl)-6-methyl-2-n-undecyl-1,2,3,4-tetrahydropyridine in 260 mL of CH2Cl2 was added 1.44 g (22.86 mmol) of sodium cyanoborohydride. After being stirred 15 minutes at room temperature, the heterogeneous solution was cooled to −42° C. and TFA (3.7 mL, 38.10 mmol) was added slowly dropwise. After being stirred for 4 h at −42° C., the cold bath was removed, and the reaction mixture was immediately quenched with 190 mL of a saturated aqueous NaHCO3/THF mixture (50:50). The aqueous phase was extracted with CH2Cl2 (2×40 mL) and the combined organic extracts were washed with water and brine. The organic phase was dried with K2CO3, filtered through Celite, and evaporated to give the crude product. Column chromatography using 5% EtOAc in hexanes gave 0.9 g (67%) of the product as a clear colorless oil. 1H NMR (300 MHz) d 3.97-3.84 (m, 1 H), 3.83-3.74 (m, 1 H), 1.92-1.28 (m, 8 H), 1.46 (s, 9 H), 1.25 (br s, 18 H), 1.22 (d, 3 H), 0.89 (t, 3 H); 13C NMR (75 MHz) 155.3 (s), 78.7 (s), 51.6 (s), 46.9 (s), 34.3 (s), 31.7 (s), 29.6 (s), 29.5 (s), 29.3 (s), 28.4 (s), 27.2 (s), 26.8 (s), 23.2 (s), 22.7 (s), 20.8 (s), 14.0 (s), 13.6 (s) ppm. FT-IR (neat) 2924, 2854, 2691, 1468, 1394, 1368, 1178, 1091 cm−1.

reactant | 1-(tert-Butoxycarbonyl)-6-methyl-2-n-undecyl-1,2,3,4-tetrahydropyridine | 3.81 mmol, 1.34 g | C(C)(C)(C)OC(=O)N1C(CCC=C1C)CCCCCCCCCCC | C22H41NO2
reactant | sodium cyanoborohydride | 22.86 mmol, 1.44 g | C(#N)[BH3-].[Na+]
reactant | TFA | 38.10 mmol, 3.7 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 260 mL | C(Cl)Cl | CH2Cl2
product | trans-N-Boc-2-methyl-6-n-undecylpiperidine | 0.9 g, 67% | C(=O)(OC(C)(C)C)N1[C@H](CCC[C@@H]1CCCCCCCCCCC)C | C22H43NO2
